US08207164B2
a) 2-(5-Bromo-2-fluoro-phenyl)-propan-2-ol
To a solution of diisopropyl amine (57.3 ml, 402 mmol) in THF (500 ml) was added under argon a 1.6 M solution of nBuLi in hexane (260 ml, 416 mmol) below −50° C. After stirring for 30 min at −75° C., 4-bromo-1-fluoro benzene (31.1 ml, 277 mmol) was added while keeping the temperature below −70° C. After stirring for 2 h at −75° C., acetone (41.2 ml, 554 mmol) was added below −65° C. and the reaction mixture was stirred for 1 h at −75° C., warmed up to −50° C. and poured onto 10% aqueous NH4Cl solution. The mixture was extracted with TBME, organic phases were washed with aqueous KHSO4 solution, saturated NaHCO3 solution and brine, dried over MgSO4, filtered and concentrated. The crude product was crystallized from hexane to provide the title compound as white crystals: TLC (hexane-EtOAc 3:1): Rf=0.45; HPLC RtH5=1.045 min; 1H NMR (360 MHz, CDCl3): δ 7.74 (dd, 1H), 7.36 (m, 1H), 6.93 (dd, 1H), 2.04 (d, 1H), 1.63 (s, 61-1).

reactant | diisopropyl amine | 402 mmol, 57.3 ml | C(C)(C)NC(C)C | C6H15N
reactant | nBuLi | [Li]CCCC
reactant | hexane | 416 mmol, 260 ml | CCCCCC | C6H14
reactant | 4-bromo-1-fluoro benzene | 277 mmol, 31.1 ml | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | acetone | 554 mmol, 41.2 ml | CC(=O)C | C3H6O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 2-(5-Bromo-2-fluoro-phenyl)-propan-2-ol | BrC=1C=CC(=C(C1)C(C)(C)O)F | C9H10BrFO
